US04352913
(CH3)2N(CH2)3OCOC2H5
10.8 g of 3-dimethylamino-1-propanol and 12.1 g of propionic anhydride are reacted and worked up as described in Example 7. Yield: 9.6 g (58.1%) of product with a boiling point of 85° C./20 torr.

reactant | 3-dimethylamino-1-propanol | 10.8 g | CN(CCCO)C | C5H13NO
reactant | propionic anhydride | 12.1 g | C(CC)(=O)OC(CC)=O | C6H10O3
product | (CH3)2N(CH2)3OCOC2H5 | N(C)(C)CCCOC(=O)CC | C8H17NO2
